US05418241
4.1. 5-Chloro-6-nitro-1,3-dihydro-2H-benzimidazole-2-one
A mixture of 14 g (0.074 mol) of 4-chloro-5-nitro-1,2-benzenediamine and of 13.44 g (0.226 mol) of urea is heated at 180° C. for 4 hours. The reaction mixture is cooled and evaporated to dryness. The residue is taken up in methanol and evaporated again. The residue is triturated in ether and a solid is obtained which is filtered. The product is used as is in the subsequent stages.

reactant | 4-chloro-5-nitro-1,2-benzenediamine | 0.074 mol, 14 g | ClC=1C=C(C(=CC1[N+](=O)[O-])N)N | C6H6ClN3O2
reactant | urea | 0.226 mol, 13.44 g | NC(=O)N | CH4N2O
product | 5-Chloro-6-nitro-1,3-dihydro-2H-benzimidazole-2-one | ClC1=CC2=C(NC(N2)=O)C=C1[N+](=O)[O-] | C7H4ClN3O3
